US05196438
A solution of 154 mg of 2-[3(S)-[(L-asparaginyl)amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro(4aS,8aS)-isoquinoline-3(S)-carboxamide and 52 mg of quinaldic acid in 6 ml of dry tetrahydrofuran was cooled in an ice/salt mixture. 41 mg of hydroxybenzotriazole, 35 mg of N-ethylmorpholine and 68 mg of dicyclohexylcarbodiimide were added and the mixture was stirred for 64 hours. The mixture was diluted with ethyl acetate and filtered. The filtrate was washed with aqueous sodium bicarbonate solution and with sodium chloride solution and then evaporated. The residue was chromatographed on silica gel using dichloromethane/methanol (9:1) for the elution to give 50 mg of N-tert.butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]butyl]-(4aS,8aS)-isoquinoline-3(S)-carboxamide as a white solid; MS: m/e 671 [M+H]+, NMR: δ (d4CH3OH, 400 MHz):

reactant | 2-[3(S)-[(L-asparaginyl)amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro(4aS,8aS)-isoquinoline-3(S)-carboxamide | 154 mg | N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C28H45N5O4
reactant | quinaldic acid | 52 mg | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | hydroxybenzotriazole | 41 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethylmorpholine | 35 mg | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 68 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert.butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]butyl]-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 50 mg | C(C)(C)(C)NC(=O)[C@H]1N(C[C@H]2CCCC[C@H]2C1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)C1=NC2=CC=CC=C2C=C1)CC(N)=O)=O)O | C38H50N6O5
